US07169926B1
A solution of 4-amino-1-methyl-3-nitro-1H-[1,8]naphthyridin-2-one (1.35 g, 6.13 mmol) in 1:1 EtOH/THF (25 mL) was hydrogenated over 10% Pd/C (1.30 g, 1.23 mmol) at room temperature. After 2 h, the catalyst was removed by filtration, rinsing with MeOH. The filtrate was concentrated to provide 3,4-diamino-1-methyl-1H-[1,8]naphthyridin-2-one (1.10 g, 94% yield). 1H-NMR (DMSO): δ 8.39 (dd, 1H, J=4.8, 1.6 Hz), 8.19 (dd, 1H, J=6.4, 1.6 Hz), 7.24 (dd, 1H, J=8.0, 4.8 Hz), 5.58 (s, 2H), 4.52 (s, 2H), 3.69 (s, 3H). MS: calculated for C9H10N4O+H 191.1; found: 191.2.

reactant | 4-amino-1-methyl-3-nitro-1H-[1,8]naphthyridin-2-one | 6.13 mmol, 1.35 g | NC1=C(C(N(C2=NC=CC=C12)C)=O)[N+](=O)[O-] | C9H8N4O3
catalyst | Pd/C | 1.23 mmol, 1.30 g | [Pd] | Pd
solvent | EtOH THF | 25 mL | CCO.C1CCOC1
product | 3,4-diamino-1-methyl-1H-[1,8]naphthyridin-2-one | 1.10 g, 94% yield | NC=1C(N(C2=NC=CC=C2C1N)C)=O | C9H10N4O
